Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / ___ Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin / 
Bactrim / adhesive tape
 
Attending: ___
 
Chief Complaint:
Diastolic heart murmur heard at follow up 
 
Major Surgical or Invasive Procedure:
___ trans esophageal echocardiogram under general anesthesia 

 
History of Present Illness:
Patient is a ___ with history of CAD s/p inferior MI ___ s/p
DES to RCA and CABG (LIMA/LAD), HFrEF (LVEF 35%), paroxysmal AF
on xeralto, mild MR, aortic pseudoaneurysm s/p EVAR, and AML s/p
alloHSCT in ___ c/b GVHD (pulmonary) on prednisone who presents
with a new diastolic murmur.   

Patient was evaluated by her PCP ___ and a new diastolic murmur
was appreciated on auscultation.  Patient says that she has had
improving SOB related to GVHD (steroid dose increased over past
several weeks as below), though still endorsing exertional SOB
and bilateral ankle swelling that improves overnight after
sleeping.  No chest pain or palpitations.  No fevers.  No
lightheadedness/dizziness.  A discussion was had with patient's
outpatient cardiologist (Dr. ___ and oncologist (Dr. ___
who recommended transfer to ___ and admission to the 
cardiology
service for urgent TTE to evaluate patient's pseudoaneurysm.  

Of note, patient was last admitted to ___ ___
after presenting with fatigue and concern for bradycardia. 
ECG/telemetry was notable for NSR with VPBs, patient was
evaluated by cardiology.  She was set up with ___ monitor at
time of discharge.  

Patient was evaluated in the CDAC ___ for three weeks of
gradually progressive exertional dyspnea iso prednisone taper. 
Cause of her symptoms was unclear, no clinical evidence of heart
failure, ECG without any new rhythm disturbance or signs of
missed ACS.  Recommendation to ___ with pulmonology to
evaluate for worsening pulmonary GVHD iso prednisone
downtitration.  Prednisone was subsequently increased to 20mg qd
by her pulmonologist, patient noted improvement in her symptoms
by ___ (next visit ___. 

Patient last saw her oncologist ___, periodic exacerbations
of restrictive airway disease noted (?GVHD).  VQ scan was
obtained as well as CT chest.  The former showed low likelihood
of PE.  The latter did not show any evidence of GVHD or PNA, 
size
of excluded pseudoaneurysm was unchanged since prior study
performed ___ (slowly increased though since ___.  PFTs
were also obtained and demonstrated moderately severe 
obstructive
ventilator defect with a mild to moderate gas exchange defect 
(no
significant change in FVC, FEV1 and DLCO since ___.

As for the history of her descending aortic pseudoaneurysm
(patient follows with Dr. ___, she is s/p EVAR with a
Cook Alpha Device ___.  She was last seen in vascular
surgery clinic ___.  MRA had shown slight increase in
diameter with a type 3 endoleak, no real concern at the time
(thought to be largely stable).  Plan to follow with repeat 
study
in six months (contrast allergy, needs MR or noncontrast CT). 
Patient was also noted to have a small AAA, to be followed with
imaging of the torso upon ___.  

 
Past Medical History:
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- Repeat bone marrow biopsy showed acute erythroleukemia  
- Admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- ___ course complicated by STEMI ___ with DES to 
RCA ___ and CABG (___) ___  
- Complicated by GVHD of the skin and lungs

PAST MEDICAL HISTORY:
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (___) 
___
- Afib on Xarelto
- Diverticulitis, hx of perforated diverticulum ___ course 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___
- CHF with EF ___
- Hypertension
- Hypercholesterolemia
- GERD
- Type II Diabetes Mellitus
- Diverticulosis  
- Occasional Bronchospasm
- History of SVC clot ___ PORT (s/p course of lovenox)
- History of C.Diff ___ & ___
- VRE
- Shingles
- Asthma
- Basal Cell Carcinoma s/p electrodessication and curettage on  
___
- s/p tonsillectomy at the age of ___
- D&C for question of some polyps back in ___
- Hospitalization for pneumonia ___ - ___
- Adrenal Insufficiency
 
Social History:
___
Family History:
Mother: CVA.
Father: ___ cancer.
Sister: HTN, ___. 
 
Physical Exam:
Admission:
VS: 97.5 139/56 65 18 94 RA 
GENERAL: NAD, pleasant in conversation.
HEENT: Anicteric sclera.
NECK: No JVP elevation.
CV: RRR, S1/S2, ___ systolic murmur heard throughout the
precordium (loudest at LSB), no appreciable diastolic murmur on
auscultation, no gallops or rubs.
PULM: CTAB, coarse inspiratory breath sounds at the bases.
GI: NABS, abdomen soft, nondistended, nontender in all 
quadrants,
no rebound/guarding, no hepatosplenomegaly.
EXTREMITIES: Trace edema in the feet bilaterally.
PULSES: 2+ radial pulses bilaterally.
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric.
DERM: Warm and well perfused, no excoriations or lesions, no 
rashes.

Discharge:
VS: 97.7, ___, HR ___, RR 18, 02 sat 98% RA
General: Pleasant woman sitting up in bed in NAD
Neuro: alert and oriented without focal ___, speech
clear and coherent
Cardiac: regular rate and rhythm, ___ systolic murmur heard best
LSB, no JVD
Lungs: CTA bilat, breathing regiular and unlabored
Abd:  soft NT/ND
Extremities:  warm and well perfused without edema
Skin: fragile thin skin with scattered ecchymotic areas BUE, 
periorbital ecchymosis, mid lip ecchymosis and left check 
echymosis
      

 
Pertinent Results:
Admission:

___ 09:29PM BLOOD ___ 
___ Plt ___
___ 09:29PM BLOOD ___ ___
___ 09:29PM BLOOD ___ 
___
___ 09:29PM BLOOD ___ cTropnT-<0.01 ___
___ 09:29PM BLOOD CK(CPK)-69

Discharge:

___ 08:14AM BLOOD ___ 
___ Plt ___
___ 08:14AM BLOOD ___ ___
___ 08:14AM BLOOD ___ 
___

___ Transthoracic echocardiogram:
CONCLUSION:
The left atrial volume index is mildly increased. The right 
atrium is mildly enlarged. There is no evidence for an atrial 
septal defect by 2D/color Doppler. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is mild regional 
left ventricular systolic dysfunction with akinesis of the 
inferoseptum, inferior, and inferolateral walls (see schematic) 
and preserved/normal contractility of the remaining segments. No 
thrombus or mass is seen in the left ventricle. Quantitative 
biplane left ventricular ejection fraction is 42 %. There is no 
resting left ventricular outflow tract gradient. No ventricular 
septal defect is seen. Normal right ventricular cavity size with 
mild global free wall hypokinesis.
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. The aortic arch diameter is 
normal. There is a significant flow acceleration in the proximal 
descending thoracic aorta,
consistent with stenosis in the descending aorta. (peak gradient 
25mmHg /mean gradient 18mmHg ). A possible type A/ascending 
aortic dissection is seen. The aortic valve leaflets (3) are 
mildly thickened. A
moderate (0.6 x 0.2 cm) echodensity is seen on the aortic side 
of the aortic valve most c/w a Lambl's excrescence (cannot 
exclude a vegetation if clinically suggested). There is no 
aortic valve stenosis. There is
mild [1+] aortic regurgitation. The mitral valve leaflets are 
mildly thickened with no mitral valve prolapse.
There is an eccentric, inferolateral directed jet of mild to 
moderate [___] mitral regurgitation. The tricuspid valve 
leaflets appear structurally normal. There is mild [1+] 
tricuspid regurgitation. The pulmonary artery systolic pressure 
could not be estimated. There is no pericardial effusion.

IMPRESSION: Possible Type A aortic dissection. Moderate sized 
mass attached to the coaptation point of the aortic valve 
leaflets most consistent with a Lambl's excrescence. Mild 
symmetric left ventricular hypertrophy with normal cavity size 
and mild regional systolic dysfunction c/w CAD in an RCA 
distribution. Mild to moderate mitral regurgitation. Mild aortic 
regurgitation. Mild tricuspid regurgitation. Acceleration of 
flow in the descending aorta consistent with stenosis.

___ Trans esophageal Echo:

Left Ventricle - Ejection Fraction:   45%   >= 55%   
  
Findings   
Limited TEE exam to rule out Ascending aortic dissection. Exam 
done with Dr. ___.   
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Focal 
calcifications in aortic root. Normal ascending aorta diameter. 

AORTIC VALVE: No AS. Trace AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild (1+) 
MR. 

___ VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Written informed consent was obtained from the 
patient. The patient was under general anesthesia throughout the 
procedure. The patient appears to be in sinus rhythm. Results 
were personally reviewed with the MD caring for the patient.   
Conclusions   
 Right ventricular chamber size and free wall motion are normal. 
There is no aortic valve stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Mild (1+) 
mitral regurgitation is seen. There is no pericardial effusion. 
Dr. ___ was notified in person of the results.
 The descending thoracic aorta is seen and not does not show any 
dissection. Distal ascending aorta and proximal arch not 
visualized. 
 

 
Brief Hospital Course:
Patient is a ___ with history of CAD s/p
inferior MI ___ s/p DES to RCA and CABG (LIMA/LAD), HFrEF
(LVEF 35%), paroxysmal AF on xeralto, mild MR, aortic aneurysm
s/p EVAR, and AML s/p alloHSCT in ___ c/b GVHD (pulmonary) on
prednisone who presents with concern for a new diastolic murmur. 


ACUTE ISSUES:
# New diastolic murmur
# History of aortic pseudoaneurysm  - Initial echo ___ with 
concern for ascending aortic dissection, type A. Unable to do CT 
with contrast d/t anaphylaxis allergy to contrast. TEE done 
under general anesthesia with plan for cardiac surgery if 
positive for dissection.  TEE was reportedly negative for 
dissection per
___. 
-Continue to treat HTN (currently well controlled) with 
Metoprolol 
-F/U with outpt vasc surgery per prior as scheduled

Resolved:

# Hyperglycemia, glucosuria
# Type II Diabetes Mellitus - Patient hyperglycemic to 400s in 
ED
with significant glucosuria.  NEG ketones.  VBG not concerning
for significant acidemia.  She received 10U regular insulin with
improvement in FSBG to 191.  Probable worsening of hyperglycemia
iso uptitrated prednisone over the past several weeks. Better
today but PO intake limited.
- F/U with PCP
- ___ home metformin, repaglinide and resume on dc

# Hyperkalemia - Mildly elevated K in the ED without any ECG
changes, 
- K today 4.8

# Hyponatremia - Only iso hyperglycemia, corrected is 136.
 -Na 143

# Elevated anion gap metabolic acidosis - No concern for HHS/DKA
as above.
- Resolved

CHRONIC ISSUES:
===============
# Coronary artery disease s/p PCI/CABG
- Continue home aspirin, statin; Metoprolol

# Chronic heart failure with reduced EF slightly improved EF on
___ echo
- Preload: patient is not currently on any diuretics
- NHBK: Continue Metoprolol 
- Afterload: no issues with blood pressure at present 

# Paroxysmal atrial fibrillation
- Rate control: Continue metoprolol
- AC: Continue rivaroxaban, dose reduced to 15mg as per pharmacy 
initially due to reduced cre clearance on admit. Now back to 
baseline ok to resume 20mg per ___ 

# ___ Myeloproliferative Disorder
# AML s/p Allogeneic Stem Cell Transplant complicated by GVHD
(pulmonary)
- Continue home prednisone 20mg qd, consider initiation of PCP
ppx
- ___ home hydroxyurea
- Continue home acyclovir, azithromycin ppx 
- Continue home albuterol, fluticasone/salmeterol, montelukast
(umeclidinium ___

# Leukocytosis
# Thrombocytosis - Chronic, at recent baseline.  Patient with
known myeloproliferative disorder, on prednisone.
- f/u with PCP/Onc

# Hypothyroidism
- Continue home levothyroxine

# Anxiety
- Continue home lorazepam prn (BID from q4h)

# GERD
- Omeprazole for home esomeprazole
- Continue home famotidine/calcium carbonate prn

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Azithromycin 250 mg PO 3X/WEEK (___) 
6. Calcium Carbonate 1500 mg PO DAILY:PRN heartburn 
7. Cyanocobalamin 500 mcg PO DAILY 
8. Famotidine 20 mg PO BID:PRN dyspepsia 
9. ___ Diskus (500/50)  1 INH IH BID 
10. Hydroxyurea 500 mg PO 3X/WEEK (___) 
11. Levothyroxine Sodium 25 mcg PO DAILY 
12. LORazepam 0.25 mg PO Q4H:PRN 
nausea/vomiting/anxiety/insomnia 
13. Metoprolol Tartrate 25 mg PO DAILY:PRN palpitations 
14. Montelukast 10 mg PO DAILY 
15. PredniSONE 20 mg PO DAILY 
16. Rivaroxaban 20 mg PO DINNER 
17. Vitamin D ___ UNIT PO DAILY 
18. esomeprazole magnesium 20 mg oral BID 
19. MetFORMIN (Glucophage) 500 mg PO BID 
20. Metoprolol Succinate XL 50 mg PO DAILY 
21. umeclidinium 62.5 mcg/actuation inhalation DAILY 
22. Repaglinide 0.5 mg PO TIDAC 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Azithromycin 250 mg PO 3X/WEEK (___)  
6.  Calcium Carbonate 1500 mg PO DAILY:PRN heartburn  
7.  Cyanocobalamin 500 mcg PO DAILY  
8.  esomeprazole magnesium 20 mg oral BID  
9.  Famotidine 20 mg PO BID:PRN dyspepsia  
10.  ___ Diskus (500/50)  1 INH IH BID  
11.  Hydroxyurea 500 mg PO 3X/WEEK (___)  
12.  Levothyroxine Sodium 25 mcg PO DAILY  
13.  LORazepam 0.25 mg PO Q4H:PRN 
nausea/vomiting/anxiety/insomnia  
14.  MetFORMIN (Glucophage) 500 mg PO BID  
15.  Metoprolol Succinate XL 50 mg PO DAILY  
16.  Metoprolol Tartrate 25 mg PO DAILY:PRN palpitations  
17.  Montelukast 10 mg PO DAILY  
18.  PredniSONE 20 mg PO DAILY  
19.  Repaglinide 0.5 mg PO TIDAC  
20.  Rivaroxaban 20 mg PO DINNER  
21.  umeclidinium 62.5 mcg/actuation inhalation DAILY  
22.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Heart murmur
aortic pseudoaneurysm s/p EVAR
Chronic heart failure with reduced EF
paroxysmal atrial fibrillation
coronary artery disease
Hyperglycemia

 
Discharge Condition:
___ events: Admitted from f/u at PCPs with question of a new
diastolic murmur

Subjective: Denies CP, back pain, abd pain, remains DOE but much
improved on increased prednisone

___ data:

VS:Temp: 97.7, ___ HR ___, RR 18, 02 sat 98% RA 
Fluid Balance: I&O not documented
Tele: ___, SR with occasional PVCs
LABS: WBC 12.4, HGB 10.3, Hct 35.4, PLTS 428, BUN 15, Creat 1.1, 
Na 143, K+ 4.8, CL 104, HC03 28

Physical Examination:
General: Pleasant woman sitting up in bed in NAD
Neuro: alert and oriented without focal ___, speech
clear and coherent
Cardiac: regular rate and rhythm, ___ systolic murmur heard best
LSB, no JVD
Lungs: CTA bilat, breathing regiular and unlabored
Abd:  soft NT/ND
Extremities:  warm and well perfused without edema
Skin: fragile thin skin with scattered ecchymotic areas BUE.
Periorbital, lip and left check ecchymosis
      
Current medications reviewed [x]

Labs/micro/radiology reviewed, pertinent below [x]

Assessment: Patient is a ___ with history of CAD s/p
inferior MI ___ s/p DES to RCA and CABG (LIMA/LAD), HFrEF
(LVEF 35%), paroxysmal AF on xeralto, mild MR, aortic aneurysm
s/p EVAR, and AML s/p alloHSCT in ___ c/b GVHD (pulmonary) on
prednisone who presents with concern for a new diastolic murmur. 


ACUTE ISSUES:
# New diastolic murmur
# History of aortic pseudoaneurysm  - Initial echo this am with
concern for ascending aortic dissection, type 1. Unable to do CT
with contrast d/t anaphylaxis allergy to contrast. ___ done 
under
general anesthesia with plan for cardiac surgery if positive for
dissection.  ___ was reportedly negative for dissection per
___. 
-Continue to treat HTN (currently well controlled) with
Metoprolol 

Facial ecchymosis: bruising noted where eyes were taped, ETT was
placed and tied/taped. Patient bruises easily due to Rivaroxaban
and Prednisone leaves her skin fragile. Patient states tape
frequently causes irritation and skin tears.
Ecchymosis will resolve without intervention.
-Tape added as allergy/adverse effect, plan to use gentle cloth
tape with all procedures 

Resolved:

# Hyperglycemia, glucosuria
# Type II Diabetes Mellitus - Patient hyperglycemic to 400s in 
ED
with significant glucosuria.  NEG ketones.  VBG not concerning
for significant acidemia.  She received 10U regular insulin with
improvement in FSBG to 191.  Probable worsening of hyperglycemia
iso uptitrated prednisone over the past several weeks. 
- F/U with PCP
- ___ metformin, repaglinide 

# Hyperkalemia - Mildly elevated K in the ED without any ECG
changes, 
- K today 4.8

# Hyponatremia - Resolved: Only iso hyperglycemia, corrected is 
136.
 -Na 143 today

# Elevated anion gap metabolic acidosis - No concern for HHS/DKA
as above.
- Resolved

CHRONIC ISSUES:
===============
# Coronary artery disease s/p PCI/CABG
- Continue home aspirin, statin; Metoprolol

# Chronic heart failure with reduced EF slightly improved EF on
___ echo
- Preload: patient is not currently on any diuretics
- NHBK: Continue Metoprolol 
- Afterload: no issues with blood pressure at present 

# Paroxysmal atrial fibrillation
- Rate control: Continue metoprolol
- AC: Continue rivaroxaban, dose reduced to 15mg as per pharmacy

# ___ Myeloproliferative Disorder
# AML s/p Allogeneic Stem Cell Transplant complicated by GVHD
(pulmonary)
- Continue home prednisone 20mg qd, consider initiation of PCP
ppx
- ___ home hydroxyurea
- Continue home acyclovir, azithromycin ppx 
- Continue home albuterol, fluticasone/salmeterol, montelukast
(umeclidinium ___

# Leukocytosis
# Thrombocytosis - Chronic, at recent baseline.  Patient with
known myeloproliferative disorder, on prednisone.
- f/u with PCP/Onc as scheduled

# Hypothyroidism
- Continue home levothyroxine

# Anxiety
- Continue home lorazepam prn (BID from q4h)

# GERD
- Omeprazole for home esomeprazole
- Continue home famotidine/calcium carbonate prn

 # PROPHYLAXIS:  
 - DVT prophylaxis with:  Rivaroxaban
 - Pain management with:  Tylenol 
 - Bowel regimen with: Senna PRN
 
 
 # Emergency contact:  
 # Family/HCP updated?  yes, pt's husband at the bedside and 
questions were answered to their apparent satisfaction

Dispo: Discharge home without services

 Anticipate: 
    [x d/c home
    [] d/c home with services
    [] d/c to rehab/LTC

*** Above plan reviewed and discussed with Dr. ___

___ Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 WHY WAS I IN THE HOSPITAL? 
 ========================== 
 - You were admitted because your primary care doctor thought he 
identified a new heart murmur and we were concerned that there 
was a problem with the blood flow around your heart called an 
aortic dissection.

 WHAT HAPPENED IN THE HOSPITAL? 
 ============================== 
 - We preformed an echocardiogram which was inconclusive 
 - We therefore did a trans esophageal echocardiogram under 
general anesthesia that did not show a dissection.

 WHAT SHOULD I DO WHEN I GO HOME? 
 ================================ 
 - Take all of your medications as prescribed without changes. 
 - Follow up with your doctors including ___ your primary 
care appointment to be seen within 10 days. You will ___ 
with Dr. ___ as scheduled. If you have any symptoms between 
now and that appointment that are concerning, please call the 
___ Cardiology Call Center at ___.  

 It was a pleasure participating in your care. We wish you the 
best! 

 -Your ___ Care Team
 
Followup Instructions:
___